US04968801
Under argon, 38 mg (0.1 mmol) of 3-(2,3β-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea in 2 ml of absolute, freshly distilled tetrahydrofuran is combined with 47 mg (0.24 mmol) of dimethylmethylthiosulfonium fluoroborate, and the mixture is agitated for 20 minutes at room temperature. For working-up purposes, the batch is poured on 10 ml of ice and rendered alkaline with 25% strength ammonia solution. The organic phase is extracted repeatedly with methylene chloride. The extracts are dried over magnesium sulfate and concentrated. The crude product is purified over a preparative silica gel plate with methylene chloride/methanol 9:1 as the eluent, thus obtaining 28 mg of 3-(2,3β-dihydro-6-methyl-1-methylthio-13-nitro-8α-ergolinyl)-1,1-diethylurea.

reactant | 3-(2,3β-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | 0.1 mmol, 38 mg | CN1C[C@H](C[C@@H]2C=3C=C(C=C4NC[C@@H](C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
reactant | dimethylmethylthiosulfonium fluoroborate | 0.24 mmol, 47 mg | F[B-](F)(F)F.C[S+](SC)C
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2,3β-dihydro-6-methyl-1-methylthio-13-nitro-8α-ergolinyl)-1,1-diethylurea | 28 mg | CN1C[C@H](C[C@@H]2C=3C=C(C=C4N(C[C@@H](C[C@@H]12)C34)SC)[N+](=O)[O-])NC(N(CC)CC)=O | C21H31N5O3S
